US07608718B2
To a cooled mixture (<0° C.) of 3-(4-chlorophenyl)-N-((piperidin-1-yl)sulfonyl)-4-phenyl-4,5-dihydro-1H-pyrazole-1-carboximidothioic acid methyl ester (10.0 gram, 21 mmol) in methanol (75 mL) is added cold methylamine (15 mL). The resulting mixture is allowed to attain room temperature and stirred for 3 hours at 50° C. After cooling to room temperature the mixture is concentrated in vacuo, dissolved in dichloromethane, washed twice with water, dried over Na2SO4, filtered and concentrated in vacuo. Subsequent flash chromatography (EtOAc/MeOH/NH4OH (25% aq.)=95/5/0.5 (v/v)), followed by recrystallisation from diisopropyl ether gives 3-(4-chlorophenyl)-N-methyl-4-phenyl-N′-((piperidin-1-yl)sulfonyl)-4,5-dihydro-1H-pyrazole-1-carboxamidine (7.87 gram, 81% yield) as a white solid. MP: 175-177° C.

reactant | 3-(4-chlorophenyl)-N-((piperidin-1-yl)sulfonyl)-4-phenyl-4,5-dihydro-1H-pyrazole-1-carboximidothioic acid methyl ester | 21 mmol, 10.0 gram | CSC(=NS(=O)(=O)N1CCCCC1)N1N=C(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C22H25ClN4O2S2
reactant | methylamine | 15 mL | CN | CH5N
solvent | methanol | 75 mL | CO | CH4O
product | 3-(4-chlorophenyl)-N-methyl-4-phenyl-N′-((piperidin-1-yl)sulfonyl)-4,5-dihydro-1H-pyrazole-1-carboxamidine | 7.87 gram, 81% yield | ClC1=CC=C(C=C1)C1=NN(CC1C1=CC=CC=C1)C(=NS(=O)(=O)N1CCCCC1)NC | C22H26ClN5O2S
